US05589487
A solution of 13.5 g of methyl 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylphenylacetate, prepared in accordance with Example 5, in 250 mL of CH3OH was cooled in an ice-- CH3OH bath and 1.8 g of NaBH4 was added in portions. After 1 hr, the mixture was concentrated to a solid. The residue was partitioned between EtOAc and saturated aqueous NaHCO3. The aqueous portion was extracted with EtOAc. The combined organics were washed with saturated aqueous NaCl, dried over MgSO4, filtered, and concentrated in vacuo to afford 9.5 g (70%) of methyl 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylphenylacetate as a foam.

reactant | methyl 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylphenylacetate | 13.5 g | OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H39NO4
reactant | NaBH4 | 1.8 g | [BH4-].[Na+]
solvent | CH3OH | 250 mL | CO | CH4O
product | methyl 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylphenylacetate | 9.5 g, 70% | OC(C1CCN(CC1)CCCC(O)C1=CC=C(C=C1)C(C(=O)OC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H41NO4
